### PR TITLE
Eta records no translation

### PR DESCRIPTION
**Pull request by atejandev**
This pull request adds the following features to Agda Core:

    Records
    Projection for records
    Correct-by-Construction type checking for records and projection
    Untyped eta conversion for records

The file TestProjection.agda contains passing tests on the Agda side for all above features

The CI seems to be failing because the scope library being used by CI is outdated.

There is a starting point for the translation of record features in `Main.hs` and `ToCore.hs`, but it currently rejects translation of all record-related features.

### CODE REVIEW

File: app/Agda/Core/ToCore.hs [hunk 1]
```diff
@@ -25,34 +25,53 @@ import Agda.Syntax.Internal.Elim (allApplyElims)
...
+
 
 import Scope.In (Index)
 import Scope.In qualified as Scope
 import Scope.Core (rbind)
 
 import Agda.Utils.Either (maybeRight)
 import Agda.Utils.Size
-import Agda.Utils.Maybe (isNothing, isJust, caseMaybe)
+import qualified Agda.Syntax.Common.Pretty as Pretty
```
Comment (jespercockx) [inline app/Agda/Core/ToCore.hs]: A small nitpick: please keep this import together with the other imports from `Agda.Syntax.*` further above.

File: app/Agda/Core/ToCore.hs [hunk 2]
```diff
@@ -79,9 +99,29 @@ asksDef = asks . (.  \ToCoreGlobal{globalDefs} -> globalDefs)
...
 
+
+asksRec :: (Map QName (Index, Nat) -> a) -> ToCoreM a
+asksRec = asks . (. \ToCoreGlobal{globalRecs} -> globalRecs)
+
 asksCon :: (Map QName Constructor -> a) -> ToCoreM a
 asksCon = asks . (. \ToCoreGlobal{globalCons} -> globalCons)
 
+
+equalsIndex :: Index -> Index -> Bool
```
Comment (jespercockx) [inline app/Agda/Core/ToCore.hs]: Why can't you use an `Eq` instance here?

File: app/Agda/Core/ToCore.hs [hunk 3]
```diff
@@ -79,9 +99,29 @@ asksDef = asks . (.  \ToCoreGlobal{globalDefs} -> globalDefs)
...
+equalsIndex (Scope.Suc x) (Scope.Suc y)   = equalsIndex x y
+
+minusIndex :: Index -> Index -> Index
+minusIndex Scope.Zero    _       = Scope.Zero
+minusIndex x       Scope.Zero    = x
+minusIndex (Scope.Suc x) (Scope.Suc y) = minusIndex x y
+
+-- Given an index i, tests whether `i` is an index pointing to a record type definition
+indexInRecs :: Index -> ToCoreM Bool
+indexInRecs i = asksRec (any (\(j, _) -> equalsIndex j i) . Map.elems)
```
Comment (jespercockx) [inline app/Agda/Core/ToCore.hs]: Using `Map.elems` with `any` looks extremely inefficient, why not just use `isJust . Map.lookup`?

File: app/Agda/Core/ToCore.hs [hunk 4]
```diff
@@ -106,6 +150,38 @@ convert tcg t = runReaderT (runToCore $ toCore t) tcg
 toTermS :: [Term] -> Core.TermS
 toTermS = foldr Core.TSCons Core.TSNil
 
+
+createTAppAndTProj :: Term -> [(I.Elim, Term)] -> ToCoreM Term
```
Comment (jespercockx) [inline app/Agda/Core/ToCore.hs]: Why does this function take both the internal and the core representations of the elims? Couldn't you just take the internal syntax and then compile it in this function?

File: src/Agda/Core/Checkers/Converter.agda [hunk 5]
```diff
@@ -157,6 +216,24 @@ convApps r u u' w w' = do
...
+          → (g : NameProj rn2)
+          → TCM (Conv (TProj recTerm1 f) (TProj recTerm2 g))
+convProjs r rn1 rn2 recTerm1 recTerm2 f g = do
+  ifDec (decNamesIn rn1 rn2)
+    (λ where {{refl}} → do
+      Erased refl ← convNamesInR f g
+      crecTerm ← convertCheck r recTerm1 recTerm2 
+      return (CProj crecTerm)
+    )
+    (tcError "datatypes not convertible")
```
Comment (jespercockx) [inline src/Agda/Core/Checkers/Converter.agda]: Shouldn't this say projections rather than datatypes?

File: src/Agda/Core/Checkers/Converter.agda [hunk 6]
```diff
@@ -216,53 +293,84 @@ convertBranches r (BsCons bsh bst) bp =
...
-convertWhnf r (TDef x) (TDef y) = convDefs x y
-convertWhnf r (TData d ps is) (TData e qs ks) = convDatas r d e ps qs is ks
-convertWhnf r (TCon {d = d} c lc) (TCon {d = d'} c' ld) = convCons r c c' lc ld
-convertWhnf r (TLam x u) (TLam y v) = convLams r x y u v
-convertWhnf r (TApp u e) (TApp v f) = convApps r u v e f
-convertWhnf r (TProj u f) (TProj v g) = tcError "not implemented: conversion of projections"
-convertWhnf r (TCase d ri u bs rt) (TCase d' ri' u' bs' rt') =
+{-# COMPILE AGDA2HS convertEtaFuncsGeneric #-}
+
+convertEtaRecsGeneric : ⦃ fl : Fuel ⦄
```
Comment (jespercockx) [inline src/Agda/Core/Checkers/Converter.agda]: It's not completely clear to me what this function is supposed to do, perhaps worth adding a comment?

File: src/Agda/Core/Checkers/Converter.agda [hunk 7]
```diff
@@ -216,53 +293,84 @@ convertBranches r (BsCons bsh bst) bp =
...
+  (singScope : Singleton rscope) →
+  TCM (∃ Nat (λ n → lengthOfRScope singScope ≡ suc n))
+checkNonEmpty singScope with lengthOfRScope singScope
+checkNonEmpty singScope    | zero  = tcError "Cannot apply untyped eta-conversion 
+  for records on a record whose 
+  constructor takes zero arguments"
+checkNonEmpty singScope    | suc n = return (n ⟨ refl ⟩)
+             
+
+convertTerms : ⦃ fl : Fuel ⦄ → Singleton α → (t q : Term α) → TCM (t ≅ q)
```
Comment (jespercockx) [inline src/Agda/Core/Checkers/Converter.agda]: Why is this function now called `convertTerms` instead of `convertWhnf`?

File: src/Agda/Core/Checkers/TypeCheck.agda [hunk 8]
```diff
@@ -104,6 +111,30 @@ inferCase {α = α} ctx d rixs u bs rt = do
...
+
+  rn'' , args ⟨ _ ⟩ ← reduceToTRecCon r recordTerm "Cannot type check a projection on a term that does not reduce to TRecCon"
+
+  El rsort typeOfRecordTerm , typDerivRecTerm ← inferType ctx recordTerm
+  rn' , params ⟨ _ ⟩  ← reduceToRec r typeOfRecordTerm "cannot type check a projection that is not of a record type"
+  ifDec (decIn (proj₂ rn) (proj₂ rn'))
+    (λ where {{refl}} → do
+      ifDec (decIn (proj₂ rn') (proj₂ rn''))
+        (λ where {{refl}} → do
+          convproof ← convert r recordTerm (TRecCon rn args)
```
Comment (jespercockx) [inline src/Agda/Core/Checkers/TypeCheck.agda]: It doesn't make sense to me that the type checker would have to call the conversion checker (except when switching from checking to inference mode). In particular, the check here seems to be completely unnecessary since you already obtained `args` by reducing `recordTerm`, so it will always succeed.

File: src/Agda/Core/Checkers/TypeCheck.agda [hunk 9]
```diff
@@ -104,6 +111,30 @@ inferCase {α = α} ctx d rixs u bs rt = do
 
 {-# COMPILE AGDA2HS inferCase #-}
 
+inferProj : {rn : NameRec} (Γ : Context α) (recordTerm : Term α) (projFunc : NameProj rn) →
+  TCM (Σ[ t ∈ Type α ] Γ ⊢ TProj recordTerm projFunc ∶ t)
+inferProj {rn = rn} ctx recordTerm projFunc = do
+  let r = singScope ctx
+
+  rn'' , args ⟨ _ ⟩ ← reduceToTRecCon r recordTerm "Cannot type check a projection on a term that does not reduce to TRecCon"
```
Comment (jespercockx) [inline src/Agda/Core/Checkers/TypeCheck.agda]: This check seems wrong to me: you should be able to apply a projection to any term of a record type, e.g. a variable or a neutral function application.

File: src/Agda/Core/Checkers/TypeCheck.agda [hunk 10]
```diff
@@ -151,7 +182,27 @@ inferData ctx d pars ixs = do
...
+inferRec : (Γ : Context α) (rn : NameRec)
+          → (pars : TermS α (recParScope rn))
+          → TCM (Σ[ ty ∈ Type α ] Γ ⊢ TRec rn pars ∶ ty)
+inferRec ctx rn pars = do
+  rt ⟨ defeq ⟩ ← tcmGetRecord rn
+  typars ← checkTermS ctx (instRecParTel rt) pars
+  return (sortType (instRecSort rt pars) , tyRec' rt defeq typars)
+{-# COMPILE AGDA2HS inferRec #-}
+
+-- inferRecCon : (Γ : Context α) (rn : NameRec)
```
Comment (jespercockx) [inline src/Agda/Core/Checkers/TypeCheck.agda]: Please remove commented out code to keep the codebase clean.

File: src/Agda/Core/Rules/Typing.agda [hunk 11]
```diff
@@ -126,7 +169,18 @@ data TyTerm {α} Γ where
...
+    {rsort : Sort α}
+    {projFunc : NameProj rn}
+    {instPars : TermS α (recParScope rn)}
+    (cargs : TermS α (recFieldScope rn))
+    (let sigRecord : Record rn
+         sigRecord = sigRecs sig rn)
+    → Γ ⊢ recordTerm ∶ (El rsort (TRec rn instPars))
+    → recordTerm ≅ (TRecCon rn cargs) 
+    --------------------------------------------------------------------------
+    → Γ ⊢ TProj recordTerm projFunc ∶ lookupNameRinTel (singScope Γ) (singTermS cargs) cargs (instRecConArgTel sigRecord instPars) projFunc
```
Comment (jespercockx) [inline src/Agda/Core/Rules/Typing.agda]: Consider introducing a helper function here (similarly to `recordConstructorType` above)

File: src/Agda/Core/Rules/Typing.agda [hunk 12]
```diff
@@ -192,7 +246,8 @@ data TyBranch {α = α} {x} Γ {d = d} dt pars return where
                    asubst = weaken (subExtScope r subRefl) (idSubst (singScope Γ))
 
                    bsubst : α ◂▸ dataIxScope d ▸ x ⇒ α'
-                   bsubst = (extSubst asubst ixs' ▹ x ↦ TCon c cargs)
+                   -- (atejandev): Not sure why a TDataCon is used here
```
Comment (jespercockx) [inline src/Agda/Core/Rules/Typing.agda]: Answer: because you can (currently) only use case analysis on data constructors

File: src/Agda/Core/Syntax/Term.agda [hunk 13]
```diff
@@ -189,7 +189,9 @@ unAppsView (TApp t es)
 unAppsView (TVar _)          = refl
 unAppsView (TDef _)          = refl
 unAppsView (TData _ _ _)     = refl
-unAppsView (TCon _ _)        = refl
+unAppsView (TRec _ _)        = refl
+unAppsView (TDataCon _ _)        = refl
```
Comment (jespercockx) [inline src/Agda/Core/Syntax/Term.agda]: Please fix the layout here :)

File: src/Agda/Core/Syntax/Weakening.agda [hunk 14]
```diff
@@ -1,3 +1,4 @@
+-- {-# OPTIONS --allow-unsolved-metas #-}
```
Comment (jespercockx) [inline src/Agda/Core/Syntax/Weakening.agda]: Please remove commented-out code

File: src/Agda/Core/Syntax/Weakening.agda [hunk 15]
```diff
@@ -95,18 +98,18 @@ instance
...
-  raiseType : {@0 α β : Scope Name} → Singleton β → Type α → Type (α <> β)
-  raiseType r = weakenType (subJoinDrop r subRefl)
-  {-# COMPILE AGDA2HS raiseType #-}
 
 lookupVar : (Γ : Context α) (x : NameIn α) → Type α
 lookupVar CtxEmpty x = nameInEmptyCase x
-lookupVar (CtxExtend g y s) x = raiseType (sing _) (nameInBindCase x
-  (λ q → lookupVar g (⟨ _ ⟩ q))
-  (λ _ → s))
+lookupVar (CtxExtend {α = α'} g y s) x = (nameInBindCase x
```
Comment (jespercockx) [inline src/Agda/Core/Syntax/Weakening.agda:103]: Why did you inline the definition of `raiseType` and remove it?

File: src/Agda/Core/Name.agda [hunk 16]
```diff
@@ -22,6 +22,17 @@ NameInR : (@0 rα : RScope Name) → Set
 NameInR rα = Σ0 Name λ x → rα ∋ x
 {-# COMPILE AGDA2HS NameInR inline #-}
 
+-- nameInRtoNameInHelper : {@0 rα : RScope Name} (@0 x : Name) → Singleton rα → (rα ∋ x) → (x ∈ (extScope mempty rα))
```
Comment (jespercockx) [inline src/Agda/Core/Name.agda]: Remove commented-out code again please

File: src/Agda/Core/Reduce.agda [hunk 17]
```diff
@@ -161,8 +161,11 @@ step rsig (MkState e (TLet x v w) s) =
     (weakenStack (subBindDrop subRefl) s))
 step (sing sig) (MkState e (TDef d) s) =
   case getBody sig d of λ where
-    v → Just (MkState e (weaken subEmpty v) s)
-step rsig (MkState e (TCon {d = d'} c vs) (FCase d r bs _ ∷ s)) =
+    -- d points to a FunctionDef
+    (Just v) → Just (MkState e (weaken subEmpty v) s)
+    -- d points to a ProjFunDef
+    Nothing → Nothing --TODO (atejandev): I don't understand whether we need to reduce further in this case
```
Comment (jespercockx) [inline src/Agda/Core/Reduce.agda]: This should never happen actually, since all projections should be represented as a `TProj` rather than a `TDef`.

File: src/Agda/Core/Reduce.agda [hunk 18]
```diff
@@ -171,9 +174,19 @@ step rsig (MkState e (TCon {d = d'} c vs) (FCase d r bs _ ∷ s)) =
           (weakenStack (subExtScope r subRefl) s))
         Nothing  → Nothing
       (False  ⟨ _ ⟩) → Nothing
+step rsig (MkState e (TRecCon rn' args) (FProj {rn = rn} f ∷ s)) = 
+  case decNamesIn rn' rn of λ where
```
Comment (jespercockx) [inline src/Agda/Core/Reduce.agda:176]: Technically it should never happen that these two are not equal, so it's a bit unfortunate that we need to do this check here again. Couldn't you just do the lookup directly without matching on `refl`?

Comment (jespercockx) [reply src/Agda/Core/Reduce.agda:176]: If it's not easy to do so it's worth at least leaving a comment to investigate this at a later point.

File: src/Agda/Core/TestEtaRecordsUnit.agda [hunk 19]
```diff
@@ -0,0 +1,171 @@
...
+instance
+  sig : Signature
+  sig .sigData = sigDataInstance
+  sig .sigDefs n = sigDefInstance n
+  sig .sigRecs = sigRecsInstance
+  sig .sigCons d c = sigConsInstance d c
+
+module TestTypechecker (@0 x y z : Name) where
+  opaque
+    -- TODO (atejandev): make this list of unfolding terms s.t. it is the minimum one required by each test
```
Comment (jespercockx) [inline src/Agda/Core/TestEtaRecordsUnit.agda]: I wouldn't bother with that, for testing it's fine to just eagerly unfold everything.

File: test/DependentDatatypes.agda [hunk 20]
```diff
@@ -1,9 +1,51 @@
...
+deppair0 = _,_ Zero Nil
+
+
+record DeciderContainer (A B : Set) : Set where
+  private 
+    myPrivateNum : Nat
+    myPrivateNum = Suc (Suc Zero)
+  field
+    decider : Vector Bool myPrivateNum → Either A B
+
```
Comment (jespercockx) [inline test/DependentDatatypes.agda]: Please fix trailing whitespace on the final line

File: test/EtaRecords.agda [hunk 21]
```diff
@@ -1,28 +1,101 @@
...
-    no-eta-equality
     field
         fst : A
         snd : B
 
+data PairAsData (A B : Set) : Set where
+  PairAsDataConstructor : A → B → PairAsData A B
+
+
+-- record PairNoEta (A B : Set) : Set where
```
Comment (jespercockx) [inline test/EtaRecords.agda]: Could you please remove the commented-out code unless it has an important purpose (in which case you should add an explanation)?

File: test/EtaRecordsUnit.agda [hunk 22]
```diff
@@ -0,0 +1,17 @@
...
+
+-- (atejandev): What does it even mean if one writes `record {}`? Does Agda infer that it means constructor of EmptyRecord?
+-- eta_expand_empty_rec_two : (a : EmptyRecord) → (a ≡ record {})
+-- eta_expand_empty_rec_two = λ a → refl
+
+etaExpandEmptyRec : (a : EmptyRecord) → (a ≡ EmptyRecord.constructor)
+etaExpandEmptyRec = λ a → refl
+
+testUnitConvPositive : (a b : EmptyRecord) → a ≡ b
+testUnitConvPositive = λ a b → refl
```
Comment (jespercockx) [inline test/EtaRecordsUnit.agda]: Please make sure all files have a final newline (you can enable to do this automatically on save in the VS code settings)

**Review by jespercockx — COMMENTED** [review]
I haven't checked everything in the translation in full detail, but I did go through all of the Agda code.

File: src/Agda/Core/Checkers/Converter.agda (hunk 7 above)
Comment (atejandev) [reply src/Agda/Core/Checkers/Converter.agda]: I interpreted the `whnf` as referring to the fact that both terms should be of the same constructor, and otherwise reject conversion. But with eta-conversion (for functions and records), we can now also convert terms which are not of the same constructor, so therefore, the `whnf` part did not seem to apply anymore

File: src/Agda/Core/Checkers/TypeCheck.agda (hunk 9 above)
Comment (atejandev) [reply src/Agda/Core/Checkers/TypeCheck.agda]: Does a variable or neutral function application not reduce to a `TRecCon`? Also, I'm not sure then how one should be able to get the `args` further in the body of `inferProj`

File: src/Agda/Core/Checkers/TypeCheck.agda (hunk 8 above)
Comment (atejandev) [reply src/Agda/Core/Checkers/TypeCheck.agda]: Update: this concern no longer applies. See next comment

~~It currently works like this because of how the typing rule `TyProj` is formulated. Particularly, we cannot just give an arbitrary `(cargs : TermS α (recFieldScope rn))`: we need to ensure that it is the `cargs` was used to construct the `recordTerm`, hence, we need the proof `recordTerm ≅ (TRecCon rn cargs)` in the conversion rule `TyProj`, otherwise, `TyProj` would allow for wrong derivations in the trusted type theory. Hence, we need to call `convert` in the implementation to get such a proof.~~

~~I currently do not see a different way to handle this situation, although I will investigate further~~

File: src/Agda/Core/Syntax/Weakening.agda (hunk 15 above)
Comment (atejandev) [reply src/Agda/Core/Syntax/Weakening.agda:103]: To me, it seemed that `raiseType` contained an unnecessary call to `subJoinDrop`. Doing the `weakenType` call in the rewritten code has the same effect and I think it makes it clearer what the `lookupVar` function is actually doing

File: src/Agda/Core/Checkers/TypeCheck.agda (hunk 8 above)
Comment (atejandev) [reply src/Agda/Core/Checkers/TypeCheck.agda]: I handled the situation now by replacing `recordTerm ≅ (TRecCon rn cargs)` with `@0 ReducesTo recordTerm (TRecCon rn cargs)`. However, I'm not sure if asking for reduction proofs in `TyTerm` is okay.

**Comment by atejandev** [comment]
I currently cannot compile the Haskell side because trying to invoke `agda2hs` on `Converter.agda` results in: 
```/home/ajdev/git_repos/agda-core/src/Agda/Core/Checkers/Converter.agda:325.1-20: error: [CustomBackendError]
agda2hs: constructor `zero` not supported in patterns
make: *** [Makefile:9: lib] Error 42
```

I will investigate whether `checkNonEmpty` in `Converter.agda` can be made to work with agda2hs

File: src/Agda/Core/Reduce.agda (hunk 18 above)
Comment (atejandev) [reply src/Agda/Core/Reduce.agda:176]: I left a comment both for the case of `FCase` and `FProj`

**Comment by atejandev** [comment]
> I currently cannot compile the Haskell side because trying to invoke `agda2hs` on `Converter.agda` results in:
> 
> ```
> agda2hs: constructor `zero` not supported in patterns
> make: *** [Makefile:9: lib] Error 42
> ```
> 
> I will investigate whether `checkNonEmpty` in `Converter.agda` can be made to work with agda2hs



> I currently cannot compile the Haskell side because trying to invoke `agda2hs` on `Converter.agda` results in:
> 
> ```
> agda2hs: constructor `zero` not supported in patterns
> make: *** [Makefile:9: lib] Error 42
> ```
> 
> I will investigate whether `checkNonEmpty` in `Converter.agda` can be made to work with agda2hs

@jespercockx I cannot find a way to get `checkNonEmpty` in `Converter.agda` to compile with agda2hs. The problematic code is:

```
checkNonEmptyHelper : {@0 rscope : RScope Name} 
  → (singScope : Singleton rscope)
  → (∃ Nat (λ n → lengthOfRScope singScope ≡ n))
  → TCM (∃ Nat (λ n' → lengthOfRScope singScope ≡ suc n'))
checkNonEmptyHelper a (zero ⟨ proof₁ ⟩) = tcError "Cannot apply untyped eta-conversion 
  for records on a record whose 
  constructor takes zero arguments"
checkNonEmptyHelper a (suc value₁ ⟨ proof₁ ⟩) = return (value₁ ⟨ proof₁ ⟩)  
{-# COMPILE AGDA2HS checkNonEmptyHelper #-}

checkNonEmpty : {@0 rscope : RScope Name} →
  (singScope : Singleton rscope) →
  TCM (∃ Nat (λ n → lengthOfRScope singScope ≡ suc n))
checkNonEmpty singScope = checkNonEmptyHelper singScope ((lengthOfRScope singScope) ⟨ refl ⟩)
{-# COMPILE AGDA2HS checkNonEmpty #-}
```

Do you know of a method to alleviate this agda2hs error?

**Comment by jespercockx** [comment]
@atejandev sorry for my silence on this PR and your question. If I'm correct then in `checkNonEmpty` you just want to check that the length is not `0`, right? You can *partially* do that by using decidable equality on natural numbers, e.g. through the `_≟_` function `Haskell.Law.Eq.Def`. You can use this together with the `ifDec` function from `Haskell.Extra.Dec` to get access to an instance of type `n ≡ 0 → ⊥`. However, unfortunately this by itself doesn't allow you to compute the predecessor of `n`, which is what you want to return here. I already filed an issue for this a while ago at https://github.com/agda/agda2hs/issues/385, though I haven't gotten around to actually implementing it yet. Perhaps I should just do so.

Regarding the rest of this PR, could you give me a status update on the current state? I see there are still a lot of comments open without a response, have these been addressed? If that's the case, could you please mark them as resolved?

**Comment by jespercockx** [comment]
I've made a PR that adds the `predNat` primitive to agda2hs: https://github.com/agda/agda2hs/pull/459 So that should hopefully be enough to get you unstuck on implementing `checkNonEmpty`.

File: app/Agda/Core/ToCore.hs (hunk 4 above)
Comment (atejandev) [reply app/Agda/Core/ToCore.hs]: Addressed by compiling the internal syntax in the function

File: src/Agda/Core/Checkers/Converter.agda (hunk 6 above)
Comment (atejandev) [reply src/Agda/Core/Checkers/Converter.agda]: Renamed `convertEtaRecsGeneric` -> `convertEtaRecsHelper` and added a small comment explaining what this function does

File: src/Agda/Core/Rules/Typing.agda (hunk 11 above)
Comment (atejandev) [reply src/Agda/Core/Rules/Typing.agda]: Added helper `recordConstructorType`

**Comment by atejandev** [comment]
@jespercockx A status update on the current state of the PR

I have implemented `checkNonEmpty` in an alternative way in commit f7dc76e, which has the same desired functionality and compiles with agda2hs.

I have resolved all comments which I have fully addressed. There are 3 remaining ones open for which I'm not exactly sure whether they are fully addressed. Could you verify that my response to those ensures that they are properly addressed?

File: src/Agda/Core/Checkers/Converter.agda (hunk 7 above)
Comment (jespercockx) [reply src/Agda/Core/Checkers/Converter.agda]: The whnf refers to the precondition that the input terms should already be reduced to whnf, not necessarily that the comparison is purely structural on the syntax. For consistency, I think it would be better to keep whnf in the name.

File: src/Agda/Core/Checkers/TypeCheck.agda (hunk 8 above)
Comment (jespercockx) [reply src/Agda/Core/Checkers/TypeCheck.agda]: Well I think you could still ask for a conversion proof in `TyTerm` and only change the typechecker, since it is possible to convert the proof of `ReducesTo recordTerm (TRecCon rn cargs)` into a proof of `recordTerm ≅ (TRecCon rn cargs)`.

File: src/Agda/Core/Checkers/TypeCheck.agda (hunk 9 above)
Comment (jespercockx) [reply src/Agda/Core/Checkers/TypeCheck.agda]: No, variables and neutral terms are in whnf so they do not reduce any further. Basically, for inferProj it should not matter what the term is that we're applying the projection to, only that its type should be the correct record type for this projection.

File: src/Agda/Core/Syntax/Weakening.agda (hunk 15 above)
Comment (jespercockx) [reply src/Agda/Core/Syntax/Weakening.agda:103]: ok, fair enough.

File: src/Agda/Core/Checkers/Converter.agda (hunk 7 above)
Comment (atejandev) [reply src/Agda/Core/Checkers/Converter.agda]: Addressed in commit 7599fbf

**Comment by jespercockx** [comment]
There seems to be a bug in the compilation of `lengthOfRScope`: the terms `zero` and `suc` are left untouched by agda2hs, but these do not exist for the Natural type. I'll investigate and probably create an upstream agda2hs issue for it.

**Comment by jespercockx** [comment]
@atejandev I took another look at this, but the fundamental problem with the typing of projections that I mentioned before is still present: `inferProj` only accepts projections applied to constructors, but not to neutral terms such as variables. This makes it essentially useless: the Agda internal syntax eagerly reduces projections applied to constructors, so no real projection will ever be accepted by the type checker.

While there are other problems also still present in this PR (in particular regarding the translation of records), we could leave those for a later PR. But the current type checker is just useless so it should be fixed before merging this.

**Comment by jespercockx** [comment]
I fixed the typing rule and typechecker for projections so it also works for neutrals (with some help of Kimi K3) in https://github.com/jespercockx/agda-core/pull/66/commits/c7e794b5e58e0dd83887af369c97470b752bf08e. I think the fix is reasonable, @atejandev let me know if you have any comments on it.

File: src/Agda/Core/Checkers/TypeCheck.agda (hunk 8 above)
Comment (atejandev) [reply src/Agda/Core/Checkers/TypeCheck.agda]: Addressed by commit  c7e794b

File: src/Agda/Core/Checkers/TypeCheck.agda (hunk 9 above)
Comment (atejandev) [reply src/Agda/Core/Checkers/TypeCheck.agda]: Addressed by commit c7e794b

**Comment by atejandev** [comment]
@jespercockx apologies for my silence on this PR (I am on holidays).

Thank you for ensuring that `inferProj` now works with neutral projections and for creating a suitable test for it.

I agree that the proposed changes are reasonable and I have therefore resolved the remaining two conversations on this PR which were still open.

Indeed the translation of record features was not originally proposed by this PR and is being left as an open feature (see Issue #68), so in my opinion, it is okay to merge.
